US06352993B1
Step 1: ethyl 4-benzylpiperazineacetate
4-Benzylpiperazine(3.3 ml, 18.9 mmol) was added to a solution of ethyl bromoacetate(1 ml, 9.0 mmol) in benzene(9 ml), which was then stirred for 2 hours at a room temperature, diluted with ethyl ether, and washed with saturated NaCl solution. The separated organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 2.38 g of the titled compound. (Yield 100%).

reactant | 4-Benzylpiperazine | 18.9 mmol, 3.3 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | ethyl bromoacetate | 9.0 mmol, 1 ml | BrCC(=O)OCC | C4H7BrO2
solvent | benzene | 9 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl ether | C(C)OCC | C4H10O
product | ethyl 4-benzylpiperazineacetate | 2.38 g, Yield 100% | C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)OCC | C15H22N2O2
